US05192785
Methylsulfamic acid 1-chloro-3-(2-methoxyphenoxy)-2-propyl ester
A solution of 109.3 g (0.55 mole) of glyceryl guaiacolate in 177 ml (2.20 moles) of pyridine and 700 ml methylene chloride was added to a solution of 283 g (2.20 moles) of methylaminosulfonyl chloride in 700 ml of methylene chloride. The addition was made over one hour at 15°-22° C. The solution was stirred at 23° C. for two hours then washed with 3×500 ml water. The methylene chloride solution was dried over type 3A molecular sieves. The mixture was filtered and the filtrate diluted with 140 ml of ethyl acetate. The solution was chromatographed on 2 kg of silica gel using 10% ethyl acetate:methylene chloride solution as eluent. The first 3×750 ml fractions were combined and concentrated to 77.3 g of brown oil. The oil was redissolved in 400 ml of 10% ethyl acetate:methylene chloride solution and chromatographed on 1.5 kg of silica gel. A total of 9×250 ml fractions were collected that showed only one spot on TLC.

reactant | glyceryl guaiacolate | 0.55 mole, 109.3 g | COC=1C=CC=CC1OCC(CO)O | C10H14O4
reactant | pyridine | 2.20 moles, 177 ml | N1=CC=CC=C1 | C5H5N
reactant | methylaminosulfonyl chloride | 2.20 moles, 283 g | CNS(=O)(=O)Cl | CH4ClNO2S
reactant | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
product | Methylsulfamic acid 1-chloro-3-(2-methoxyphenoxy)-2-propyl ester | ClCC(COC1=C(C=CC=C1)OC)OS(NC)(=O)=O | C11H16ClNO5S
